US07399866B2
A round bottom flask was charged with triphosgene (3 g, 10 mmol, 1 eq) and THF (33 mL) and chilled to 0° C. A solution of 5-amino-2-methyl pyridine (3.3 g, 10 mmol, 3 eq), diisopropylethylamine (10.3 mL, 60 mmol, 6 eq) and THF (33 mL) was added dropwise to the triphosgene solution. The mixture was allowed to warm to room temperature and stirred for 30 minutes. A solution of (R)-tert-butyl-3-(3-amino-5-fluorophenoxy)-pyrrolidine-1-carboxylate (3.0 g, 10 mmol, 1 eq) in THF (33 mL) was added dropwise. The resultant reaction mixture was stirred overnight at room temperature. The reaction mixture was quenched with a saturated sodium bicarbonate solution and the THF was removed in vacuo. The mixture was extracted with dichloromethane. The dichloromethane solution was washed with saturated sodium bicarbonate and brine. The organic layers were dried with sodium sulfate, filtered and concentrated. The residue was purified by silica column chromatography with 500 mL of ethyl acetate, 500 mL of 2.5% methanol in ethyl acetate, 500 mL of 5% methanol in ethyl acetate, 500 mL 7.5% methanol in ethyl acetate, and 10% methanol in ethyl acetate as the gradient elute to yield 3.4 g of 3-{3-fluoro-5-[3-(6-methyl-pyridin-3-yl)-ureido]-phenoxy}-pyrrolidine-1-carboxylic acid tert-butyl ester as a light yellow solid.

reactant | triphosgene | 10 mmol, 3 g, 1 eq | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 5-amino-2-methyl pyridine | 10 mmol, 3.3 g, 3 eq | NC=1C=CC(=NC1)C | C6H8N2
reactant | diisopropylethylamine | 60 mmol, 10.3 mL, 6 eq | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (R)-tert-butyl-3-(3-amino-5-fluorophenoxy)-pyrrolidine-1-carboxylate | 10 mmol, 3.0 g, 1 eq | C(C)(C)(C)OC(=O)N1C[C@@H](CC1)OC1=CC(=CC(=C1)F)N | C15H21FN2O3
solvent | THF | 33 mL | C1CCOC1 | C4H8O
solvent | THF | 33 mL | C1CCOC1 | C4H8O
solvent | THF | 33 mL | C1CCOC1 | C4H8O
product | 3-{3-fluoro-5-[3-(6-methyl-pyridin-3-yl)-ureido]-phenoxy}-pyrrolidine-1-carboxylic acid tert-butyl ester | 3.4 g | C(C)(C)(C)OC(=O)N1CC(CC1)OC1=CC(=CC(=C1)NC(=O)NC=1C=NC(=CC1)C)F | C22H27FN4O4
